US06492416B1
To 102 mg of 3-bromo-2-{4-(methylsulfonyl)phenyl}-1-oxa-spiro[4,5]dec-2-en-4-one dissolved in 3 ml toluene and 15 ml ethanol, were added 16 mg of tetrakis(triphenylphosphin)palladium(0), 3 ml of 2 M aqueous sodium carbonate and 35 mg of benzeneboronic acid. The reaction mixture was stirred at 90° C. for 12 hours. The reaction mixture was then purified by a procedure similar to the procedure in Step 6 of Example 53 to afford 50 mg of 2-{4-(methylsulfonyl)phenyl}-3-phenyl-1-oxa-spiro[4,5]dec-2-en-4-one as a solid. mp: 126-127° C. NMR: δ1.77-1.85 (m, 10H), 3.06 (s, 3H), 7.27 (m, 2H), 7.35 (m, 3H), 7.83 (d, J=8.1 Hz, 2H), 7.94 (d. J=8.1 Hz, 2H). IR (cm−1): 2936, 1693, 1621, 1404, 1318, 1147, 1129, 730.

reactant | 3-bromo-2-{4-(methylsulfonyl)phenyl}-1-oxa-spiro[4,5]dec-2-en-4-one | 102 mg | BrC1=C(OC2(C1=O)CCCCC2)C2=CC=C(C=C2)S(=O)(=O)C | C16H17BrO4S
reactant | sodium carbonate | 2 M, 3 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | benzeneboronic acid | 35 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 2-{4-(methylsulfonyl)phenyl}-3-phenyl-1-oxa-spiro[4,5]dec-2-en-4-one | 50 mg | CS(=O)(=O)C1=CC=C(C=C1)C=1OC2(C(C1C1=CC=CC=C1)=O)CCCCC2 | C22H22O4S
